US08334267B2
Preparation of Mangiferin Calcium
mangiferin 4.2 g (0.01 mol) is dissolved into 50 ml DMSO, calcium hydroxide 0.37 g (0.005 mol) is dissolved in 80 g glycerol, calcium hydroxide solution is added slowly into mangiferin solution while mixing round, mixing round until it react completely. Appropriate quantity ethanol is added into the reaction solution, mixing round adequately. A lot of deposition is come into being in solution. The reaction solution is filtrated to get the deposition. This deposition is heated up no excess 60° C. to dry. The yellow green solid substance is mangiferin calcium. Its weight is 3.8 g, the productivity is 90.4%. The purity of mangiferin monopotassium is 71.2% detected by HPLC.

reactant | mangiferin | 0.01 mol, 4.2 g | C=1C2=C(C=C(C1O)O)OC=3C=C(C(=C(C3C2=O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O | C19H18O12
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
reactant | calcium hydroxide | 0.005 mol, 0.37 g | [OH-].[Ca+2].[OH-]
reactant | ethanol | C(C)O | C2H6O
solvent | glycerol | 80 g | OCC(O)CO | C3H8O3
product | Mangiferin Calcium | C=1C2=C(C=C(C1O)O)OC=3C=C(C(=C(C3C2=O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O.[Ca] | InChI=1S/C19H18O12.Ca/c20-4-11-14(25)16(27)17(28)19(30-11)31-18-8(23)3-10-12(15(18)26)13(24)5-1-6(21)7(22)2-9(5)29-10;/h1-3,11,14,16-17,19-23,25-28H,4H2;/t11-,14-,16+,17-,19+;/m1./s1
